US04975455
STAGE C: 2,4-DIHYDROXY-5,6-DIMETHYLBENZALDEHYDE (A. ROBERTSON, W. B. WHALLEY, J. CHEM. SOC., 1949, 3033)
4.450 g (32 mmol) of 2,3-dimethyl-5-hydroxyphenol are dissolved in 100 ml of anhydrous ethyl ether in a round-bottomed flask equipped with a gas inlet, a thermometer and a condenser (the outflow gases being trapped by 3 successive bubblers: H2SO4, saturated KMnO4 solution, 3N NaOH). After 5.635 g (48 mmol) of zinc cyanide have been added, a stream of gaseous hydrochloric acid is passed through for 2 hours with stirring at room temperature. A copious precipitate appears, increasing with the passage of time. At the end of the operation, a powerful stream of nitrogen is passed through the reaction medium. The insoluble matter is separated by filtration and dissolved in boiling water. After cooling, the aldehyde precipitates. After filtration, the crystals are washed with water and dried.

reactant | 2,3-dimethyl-5-hydroxyphenol | 32 mmol, 4.450 g | CC1=C(C=C(C=C1C)O)O | C8H10O2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | KMnO4 | [O-][Mn](=O)(=O)=O.[K+]
reactant | NaOH | 3N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl ether | 100 ml | C(C)OCC | C4H10O
catalyst | zinc cyanide | 48 mmol, 5.635 g | [C-]#N.[Zn+2].[C-]#N
product | 2,4-DIHYDROXY-5,6-DIMETHYLBENZALDEHYDE | OC1=C(C=O)C(=C(C(=C1)O)C)C | C9H10O3
